US09314025B2
Step B: Preparation of 1,3-bis(2,4,6-trichlorophenyl) 2-phenylpropanedioate
To a slurry of phenylmalonic acid (5.00 g, 27.8 mmol) in dichloromethane (7 mL) at room temperature was added a drop of N,N-dimethylformamide, followed by the dropwise addition of oxalyl chloride (9.09 g, 71.6 mmol) at such a rate to keep gas evolution under control. The reaction mixture was stirred for an additional hour at room temperature, during which time the reaction mixture clarified. 2,4,6-Trichlorophenol (15 g, 76 mmol) was added, and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated under vacuum, and methanol (100 mL) was added to the residue, which resulted in precipitation of a large amount of solid. The solid was collected by filtration, rinsed with methanol (80 mL) and air dried to give the title product as a white solid (13 g).

reactant | phenylmalonic acid | 27.8 mmol, 5.00 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 71.6 mmol, 9.09 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4,6-Trichlorophenol | 76 mmol, 15 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 1,3-bis(2,4,6-trichlorophenyl) 2-phenylpropanedioate | 13 g | C1(=CC=CC=C1)C(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl | C21H10Cl6O4
